* Z:\home\seijirom\Dropbox\MakeLSI\2020_9\IshibeOpAmp\ishibe_tb.asc
XX1 n004 n001 out N002 NC_01 opamp3ureiauto
R1 n004 N003 10k
R2 out n004 100k
V1 N003 n001 SINE(0 0.1 1k) AC 1
V2 N002 n001 3
V3 n001 0 3

* block symbol definitions
.subckt opamp3ureiauto Vinm Vinp Vout VDD Vbias
M1 N010 N010 0 0 nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M2 N008 N008 N010 0 nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M3 N011 N010 0 0 nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M4 N007 N008 N011 0 nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M5 N001 Vbias 0 0 nch l=1u w=34u ad=7e-10 as=7e-10 pd=114e-6 ps=114e-6
M6 N006 Vbias 0 0 nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M10 Vout N009 0 0 nch l=1u w=100u ad=2.1e-9 as=2.1e-9 pd=314e-6 ps=314e-6
M11 N009 N010 0 0 nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M12 VDD N007 N009 0 nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M13 N002 N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M14 N003 N003 N002 N002 pch l=1u w=38u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M15 N006 N006 N003 N003 pch l=1u w=38u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M16 N007 N006 N005 N005 pch l=1u w=19u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M17 N008 N006 N004 N004 pch l=1u w=19u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M18 N004 Vinm N002 N002 pch l=1u w=25u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M20 Vout N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M21 N005 Vinp N002 N002 pch l=1u w=25u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M24 N001 N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M7 Vbias Vbias 0 0 nch l=1u w=34u ad=7e-10 as=7e-10 pd=114e-6 ps=114e-6
R1 VDD Vbias 40k
C1 Vout N007 3p
.inc ./models/OR1_mos
.ends opamp3ureiauto

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\seijirom\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include models/OR1_mos
.ac dec 10 1 1G
.backanno
.end
